US04470991
Step B: Preparation of (2-Sulfamoyl-6-benzothiazolyl) 4-methylphenylsulfonate
To a stirred mixture of 6-hydroxy-2-benzothiazolesulfonamide (2.3 g., 0.01 mole) and 4-dimethylaminopyridine (200 mg) in pyridine (25 ml) was added p-toluenesulfonyl chloride (1.9 g, 0.01 mole). The reaction mixture was stirred at 25° C. for 21/2 hours, treated with p-toluenesulfonyl chloride (0.3 g.), stirred 1 hour then poured into ice water plus excess hydrochloric acid. The product was extracted into ether, washed with water, dried over magnesium sulfate, concentrated to dryness and chromatographed on silica (150 g., 70-230 mesh) eluting with ethyl acetate-hexane (1:1) to obtain 1.4 g. of (2-sulfamoyl-6-benzothiazolyl) 4-methylphenyl sulfonate which melts at 142° C. after recrystallization from toluene.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.01 mole, 2.3 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | p-toluenesulfonyl chloride | 0.01 mole, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | (2-Sulfamoyl-6-benzothiazolyl) 4-methylphenylsulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC2=C(N=C(S2)S(N)(=O)=O)C=C1 | C14H12N2O5S3
